US07619086B2
Step 4: 1-(4-Fluorobenzyl)-4-(nitromethyl)piperidin-2-one
To a solution of 1-(4-fluorobenzyl)-5,6-dihydropyridin-2-(1H)-one (6.2 g, 30 mmol) in nitromethane (64.5 g, 1.06 mol) under an atmosphere of nitrogen was added DBU (4.59 g, 30.2 mmol). The reaction mixture was stirred overnight at room temperature. The product mixture was concentrated under vacuum. The residue was purified using column chromatography on silica gel eluting with 50%-100% ethyl acetate in hexanes. Collection and concentration of appropriate fractions provided the title compound as pale yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.25 (m, 2H), 7.01 (t, J=8.7 Hz, 2H), 4.64 (d, J=14.6 Hz, 1H), 4.48 (d, J=14.5 Hz, 1H), 4.34 (m, 2H), 3.27 (m, 2H), 2.23 (dd, J=17, 10.6 Hz, 1H), 2.0 (m, 1H), 1.61 (m, 1H).

reactant | 1-(4-fluorobenzyl)-5,6-dihydropyridin-2-(1H)-one | 30 mmol, 6.2 g | FC1=CC=C(CN2C(C=CCC2)=O)C=C1 | C12H12FNO
reactant | nitromethane | 1.06 mol, 64.5 g | [N+](=O)([O-])C | CH3NO2
reactant | DBU | 30.2 mmol, 4.59 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-(4-Fluorobenzyl)-4-(nitromethyl)piperidin-2-one | FC1=CC=C(CN2C(CC(CC2)C[N+](=O)[O-])=O)C=C1 | C13H15FN2O3
